* source HB100_THIR
R_R1         0 N00255  12k TC=0,0 
C_C1         N00255 N00275  10u  TC=0,0 
V_V1         N00331 0 3.3Vdc
V_V2         N00255 0  AC 0
+SIN 0 0.001 100 0 0 0
V_V3         N00539 0 3.3Vdc
R_R2         N00551 N00539  100k TC=0,0 
R_R3         0 N00551  100k TC=0,0 
C_C2         0 N00551  100u  TC=0,0 
R_R4         N00275 N00551  330k TC=0,0 
R_R5         N00788 N00784  10k TC=0,0 
R_R6         N00800 N00788  100k TC=0,0 
C_C3         0 N00784  10u  TC=0,0 
C_C4         N00788 N00800  2.2n  TC=0,0 
C_C5         N00800 N00946  10u  TC=0,0 
R_R7         N00950 N00946  8.2k TC=0,0 
V_V4         N01094 0 3.3Vdc
R_R8         N01171 N00950  100k TC=0,0 
C_C6         N00950 N01171  2.2n  TC=0,0 
X_U1A         N00551 N00950 N01094 0 N01171 LM324
X_U1B         N00275 N00788 N00331 0 N00800 LM324
